US04205085
4'-[15-(Trifluoromethyl)pentadecylamino]-2-(phenylsulfonyl)acetophenone
A solution of 864 mg. of sodium hydride and 5.3 g. of methylphenylsulfone in 20 ml. of 1,2-dimethoxyethane is stirred at 60° C. for one hour under an atmosphere of argon. To this solution is then added a solution of 5.0 g. of methyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate and 50 ml. of tetrahydrofuran and the reaction mixture is stirred at 60° C. for 1.5 hours. The mixture is cooled, poured onto ice, acidified with dilute hydrochloric acid to pH 3 and then extracted with chloroform. The organic layer is separated, washed three times with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated to dryness. The crude solid is chromatographed on silica gel, eluting with methylene chloride to yield the product.

reactant | sodium hydride | [H-].[Na+]
reactant | methylphenylsulfone | CS(=O)(=O)C1=CC=CC=C1 | C7H8O2S
reactant | methyl 4-[15-(trifluoromethyl)pentadecylamino]benzoate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OC)C=C1)(F)F | C24H38F3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 4'-[15-(Trifluoromethyl)pentadecylamino]-2-(phenylsulfonyl)acetophenone | FC(CCCCCCCCCCCCCCCNC1=CC=C(C=C1)C(CS(=O)(=O)C1=CC=CC=C1)=O)(F)F | C30H42F3NO3S
